US07018988B2
(2S,4EZ)-4-benzylidene-N-(9-ethyl-9H-carbazol-3-yl)-2-pyrrolidinecarboxamide
Following the general method as outlined in Example 22, starting from (2S,4EZ)-4-benzylidene-1-(tert-butoxycarbonyl)-2-pyrrolidinecarboxylic acid, and 9-ethyl-9H-carbazol-3-amine the title compound was obtained in 53% purity by LC/MS. MS(ESI+): m/z=396.2.

reactant | (2S,4EZ)-4-benzylidene-1-(tert-butoxycarbonyl)-2-pyrrolidinecarboxylic acid | C(C1=CC=CC=C1)=C1C[C@H](N(C1)C(=O)OC(C)(C)C)C(=O)O | C17H21NO4
reactant | 9-ethyl-9H-carbazol-3-amine | C(C)N1C2=CC=CC=C2C=2C=C(C=CC12)N | C14H14N2
product | (2S,4EZ)-4-benzylidene-N-(9-ethyl-9H-carbazol-3-yl)-2-pyrrolidinecarboxamide | C(C1=CC=CC=C1)=C1C[C@H](NC1)C(=O)NC=1C=CC=2N(C3=CC=CC=C3C2C1)CC | C26H25N3O
